US04866091
A mixture of 4'-cyano-2'-(2,4-difluorophenoxy)methanesulfonanilide (2.1 g), sodium azide (0.5 g) and ammonium chloride (0.43 g) in N,N-dimethylformamide (10 ml) was stirred for 6 hours at 110° C. The mixture was poured into a mixture of ice and diluted hydrochloric acid, and extracted with ethyl acetate. The extract was washed with water, dried and concentrated in vacuo. The residual crystals were recrystallized from ethyl acetate to give colorless crystals of 2'-(2,4-difluorophenoxy)-4'-(5-tetrazolyl)methanesulfonanilide (2.3 g).

reactant | 4'-cyano-2'-(2,4-difluorophenoxy)methanesulfonanilide | 2.1 g | C(#N)C1=CC(=C(NS(=O)(=O)C)C=C1)OC1=C(C=C(C=C1)F)F | C14H10F2N2O3S
reactant | sodium azide | 0.5 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.43 g | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2'-(2,4-difluorophenoxy)-4'-(5-tetrazolyl)methanesulfonanilide | 2.3 g | FC1=C(OC2=C(NS(=O)(=O)C)C=CC(=C2)C2=NN=NN2)C=CC(=C1)F | C14H11F2N5O3S
